US07737141B2
3,4,5-Trifluorophenyl magnesium bromide (0.35 M diethylether solution, 55 mL) was dropwise added to a tetrahydrofuran solution (100 mL) of (R)-5-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (CAS Register No. 128811-48-3, 4.1 g) over 20 min at −40° C. This reaction solution was stirred at −40° C. for 5 hr. To this solution, a saturated ammonium chloride aqueous solution and ethyl acetate were added. The reaction solution was heated to room temperature. The organic layer was separated, washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane ethyl acetate=1:0 to 1:1) to give 4.8 g of (R)-2-tert-butoxycarbonylamino-5-oxo-5-(3,4,5-trifluorophenyl)pentanoic acid ethyl ester. A 4 N hydrochloric acid ethyl acetate solution (30 mL) was added to an ethyl acetate solution (30 mL) of the obtained (R)-2-tert-butoxycarbonylamino-5-oxo-5-(3,4,5-trifluorophenyl)pentanoic acid ethyl ester. This solution was stirred for 16 hr. The reaction solution was concentrated under reduced pressure. To the residue, ethyl acetate and a saturated sodium hydrogencarbonate aqueous solution were added. The organic layer was separated, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. To an ethyl acetate solution (50 mL) of the residue, 10% palladium-carbon (100 mg) was added. The resulting reaction solution was stirred under 1 atm of hydrogen atmosphere for 6 hr. The reaction solution was filtered through Celite. The filtrate was concentrated under reduced pressure to give 2.91 g of the title compound. The physical property values of this compound were as follows:

reactant | 3,4,5-Trifluorophenyl magnesium bromide | 0.35 M, 55 mL | FC=1C=C(C=C(C1F)F)[Mg]Br
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | (R)-5-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 4.1 g | CCOC(=O)[C@@H]1N(C(CC1)=O)C(=O)OC(C)(C)C | C12H19NO5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-2-tert-butoxycarbonylamino-5-oxo-5-(3,4,5-trifluorophenyl)pentanoic acid ethyl ester | 4.8 g | C(C)OC([C@@H](CCC(C1=CC(=C(C(=C1)F)F)F)=O)NC(=O)OC(C)(C)C)=O | C18H22F3NO5
